data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_263906_2,[C:1]([C:4](=[C:3]([O:6][H:10])[O:7][H:9])/[N:8]=[C:5](/[C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[N:8][C:5]([C:2]([H:15])([H:16])[H:17])([H:11])[C:3]1([O:6][H:10])[O:7][H:9])([H:12])([H:13])[H:14],39.9799075000044
MR_53983_1,[C:1](/[C:4](=[C:5](/[C:2]([H:15])([H:16])[H:17])[N:3]([N:6]([H:10])[H:11])[H:9])[O:7][H:8])([H:12])([H:13])[H:14]>>[C:1]([C@@:4](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:3]/[H:9])([N:6]([H:10])[H:11])[O:7][H:8])([H:12])([H:13])[H:14],66.87141999998843
MR_231957_0,[C:1]([C:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:6](/[N:5]([H:9])[H:10])[H:11])=[N:7]\[H:8])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:4]([C:2]([H:15])([H:16])[H:17])[C:6]([N:5]([H:9])[H:10])([H:11])[N:7]1[H:8])([H:12])([H:13])[H:14],35.32762250001511
MR_658847_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[N:3]=[N:4]/[H:10])([C:5]([O:7][H:11])([H:9])[H:12])[O:6][H:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([N:4]([H:10])[H:11])[H:9])([C:5](=[O:7])[H:12])[O:6][H:8],53.50441499999377
MR_419762_1,[C:1](=[C:4]([C:3](/[C:5]([C:2]([H:19])([H:20])[H:21])=[N:9]/[H:16])([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[N:8]([H:14])[H:15])([H:17])[H:18]>>[C:1]([C:4](=[C:3]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[N:8]([H:14])[H:15])(/[C:5]([C:2]([H:19])([H:20])[H:21])=[N:9]\[H:16])([H:17])[H:18],63.95731000003366
MR_423898_0,[C:1]([C:4](/[C:3](=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])[O:7][H:9])=[N:8]\[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:3]([O:7][H:9])[C:6]([C:2]([H:16])([H:17])[H:18])([H:12])[N:8]1[N:5]([H:10])[H:11])([H:13])([H:14])[H:15],50.33616750000292
MR_62096_0,[C:1](/[C:3](=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:11])[H:10])([O:5][O:6][H:7])([H:8])[H:9]>>[C:1](=[C:3]([C:4]([C:2]([H:12])([H:13])[H:14])([O:5][O:6][H:7])[H:11])[H:10])([H:8])[H:9],49.28761500001073
MR_211745_0,[C@@:1]([C:2]([O:6][H:9])=[O:8])([C:3](=[C:5]([H:14])[H:15])[O:7][H:10])([N:4]([H:12])[H:13])[H:11]>>[C:1](=[C:3](/[C:5]([C:2]([O:6][H:9])=[O:8])([H:14])[H:15])[O:7][H:10])(\[N:4]([H:12])[H:13])[H:11],59.96703750001373
MR_13299_0,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:3]([N:5]([H:8])[H:9])[O:6][H:7])([H:10])([H:11])[H:12]>>[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])(/[C:3](=[N:5]/[H:8])[O:6][H:7])[H:9])([H:10])([H:11])[H:12],61.43601499997885
MR_48082_0,[C:1]([C:3]([N:4]([H:7])[H:8])=[C:5]([H:14])[H:15])([O:6][C:2]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:1](=[C:3]([N:4]([H:7])[H:8])[C:5]([O:6][C:2]([H:11])([H:12])[H:13])([H:14])[H:15])([H:9])[H:10],68.39122500000357
MR_533730_1,[C:1](/[C:4](=[C:2](\[N:5]([H:11])[H:12])[N:9]=[C:3]([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])[O:8][H:10])([H:17])([H:18])[H:19]>>[C:1]([C:4]1([O:8][H:10])[C:2]([N:5]([H:11])[H:12])=[N:9][C:3]1([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])([H:17])([H:18])[H:19],47.74459249998287
MR_623733_0,[C:1]([O:3][H:8])(/[N:4]=[N:5]\[C:2](=[N:6]/[H:9])[H:10])=[O:7]>>[C:1]([O:3][H:8])([N:6]([C:2]1([H:10])[N:4][N:5]1)[H:9])=[O:7],73.16712750000178
MR_305265_0,[C:1]([O:6][C:4]([O:5][N:3]([C:2]([H:12])([H:13])[H:14])[H:8])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([O:6][N:3]([C:2]([H:12])([H:13])[H:14])[O:5][C:4](=[O:7])[H:8])([H:9])([H:10])[H:11],66.35059499998363
MR_348195_0,[C:1]([N:4]([C:2]([H:11])([H:12])[H:13])[O:7][H:8])([C:5]([C:3]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([H:9])[H:10]>>[C:1](=[C:5]([C:3]([H:14])([H:15])[H:16])[C:6]([N:4]([C:2]([H:11])([H:12])[H:13])[O:7][H:8])([H:17])[H:18])([H:9])[H:10],65.64277499998724
MR_220037_1,[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([O:8][H:11])[H:12])([C:5]([O:6][C:2]([H:13])([H:14])[H:15])=[O:9])[O:7][H:10]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:5]([N:4]([O:8][H:11])[H:12])=[O:9])([O:6][C:2]([H:13])([H:14])[H:15])[O:7][H:10],66.03935499998471
MR_328988_1,[C:1]1([H:13])([H:14])/[C:4](=[N:8]\[H:12])[N:2]([N:5]([H:10])[H:11])[C:3]([O:7][H:9])=[C:6]1[H:15]>>[C:1]1([H:13])([H:14])/[C:4](=[N:8]\[H:12])[C:6]1(/[C:3](=[N:2]/[N:5]([H:10])[H:11])[O:7][H:9])[H:15],59.28996499997538
MR_273925_0,[C:1](/[C:4](=[C:3](/[C:2]([H:12])([H:13])[H:14])[O:5][H:8])[H:11])([N:6]=[O:7])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:3]([C:2]([H:12])([H:13])[H:14])([O:5][H:8])[C:4]1([N:6]=[O:7])[H:11],66.3681650000106
MR_123829_0,[C:1]([C:2]([H:10])([H:11])[H:13])([C:3]([H:12])([H:14])[H:15])([C:4](=[O:6])[H:8])[C:5](=[O:7])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:13])([C:3]([H:12])([H:14])[H:15])=[C:4]([O:6][C:5](=[O:7])[H:9])[H:8],49.728747500002726
MR_446256_0,[C:1]1([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])[N:5]([H:10])[C:8]2([H:12])[C:6]([C:4]([H:19])([H:20])[H:21])=[N:9][C:7]12[H:11]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])[N:5]([H:10])[C:8]([H:12])=[C:6]([C:4]([H:19])([H:20])[H:21])[N:9]=[C:7]1[H:11],27.83338999999586
MR_476422_1,[C:1]1(/[N:6]=[N:7]/[H:12])([H:8])[C:2]([N:3]([H:10])[H:11])([H:9])[C:5]([H:14])=[C:4]1[H:13]>>[C:1](/[C:2](=[N:3]/[H:11])[H:9])([C:4](=[C:5]([H:10])[H:14])[H:13])(/[N:6]=[N:7]/[H:12])[H:8],69.97378000000296
